US04278669
A mixture of 5.0 g of 6α-fluoro-16β-methyl-17α,21-diacetoxypregna-4,9(11)-diene-3,20-dione (prepared according to British Pat. No. 1,403,962), 100 ml of dioxane and 3.5 g of 2,3-dichloro-4,6-dicyano-1,4-benzoquinone is refluxed for 10 hours. The mixture is then cooled, filtered and evaporated to dryness. The residue is dissolved in acetone and this solution is then filtered through 100 g of alumina and concentrated to yield 6α-fluoro-16β-methyl-17α,21-diacetoxypregna-1,4,9(11)-triene-3,20-dione which is further purified by recrystallization from acetone:hexane.

reactant | 6α-fluoro-16β-methyl-17α,21-diacetoxypregna-4,9(11)-diene-3,20-dione | 5.0 g | F[C@H]1C[C@H]2[C@@H]3C[C@@H]([C@](C(COC(C)=O)=O)([C@]3(CC=C2[C@]2(CCC(C=C12)=O)C)C)OC(C)=O)C | C26H33FO6
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6α-fluoro-16β-methyl-17α,21-diacetoxypregna-1,4,9(11)-triene-3,20-dione | F[C@H]1C[C@H]2[C@@H]3C[C@@H]([C@](C(COC(C)=O)=O)([C@]3(CC=C2[C@]2(C=CC(C=C12)=O)C)C)OC(C)=O)C | C26H31FO6
